US07902367B2
Step 59b) Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methylamino]piperidin-1-yl]benzoate
Acetic acid (0.0251 mL, 0.438 mmol) and sodium triacetoxyborohydride (97.7 mg, 0.438 mmol) were added to methyl 3-(3-aminopiperidin-1-yl)benzoate (79.0 mg, 0.337 mmol) and 2-(4-chlorophenyl)-4-methylthiazole-5-carboaldehyde (80.1 mg, 0.337 mmol) in tetrahydrofuran (5 mL). The reaction mixture was stirred at room temperature for 16 hours. Subsequently, a saturated aqueous sodium bicarbonate solution was added to make the mixture basic. The mixture was then extracted with ethyl acetate and the extract washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the resulting residue by silica gel column chromatography (Chromatorex NH-DM2035 (Fuji Sylysia Chemical Co., Ltd.) hexane:ethyl acetate=5:1->2:1) gave 59.4 mg (39%) of the desired compound as a colorless oil.

reactant | Acetic acid | 0.438 mmol, 0.0251 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.438 mmol, 97.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 3-(3-aminopiperidin-1-yl)benzoate | 0.337 mmol, 79.0 mg | NC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C13H18N2O2
reactant | 2-(4-chlorophenyl)-4-methylthiazole-5-carboaldehyde | 0.337 mmol, 80.1 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C=O | C11H8ClNOS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methylamino]piperidin-1-yl]benzoate | 59.4 mg, 39% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CNC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C24H26ClN3O2S
